US07790756B2
NaH (100 mg, 3.3 mmol) was slowly added to a solution of Example A12 (0.50 g, 2.1 mmol) in dry THF (50 mL) at 0° C. After 30 min, CS2 (0.49 g, 6.4 mmol) was added and the reaction mixture was stirred at 0° C. for 1 hour. Methyl iodide (2.4 g, 17 mmol) was added at 0° C. and the reaction mixture was allowed to warm to RT overnight. The solvent was removed under reduced pressure to obtain the crude product. The crude, O-(5-(3-amino-4-fluorophenoxy)pyridin-2-yl)methyl S-methyl carbonodithioate (0.69 g, 2.1 mmol) was dissolved in toluene (5 mL) and tributyltin hydride (1 mL) and AIBN (50 mg) were added. The reaction mixture was heated under reflux for 3 hours. The solvent was removed under reduced pressure and the residue was filtered and washed with CH2Cl2. The filtrate was evaporated and the residue was purified by silica gel column chromatography to obtain 2-fluoro-5-(6-methylpyridin-3-yloxy)benzenamine (0.26 g, 56% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.20 (d, J=2.8 Hz, 1H), 7.30 (dd, J=2.8, and 8.4 Hz, 1H), 7.25 (d, J=8.4 Hz, 1H), 6.97 (dd, J=8.8, 11.6 Hz, 1H), 6.38 (dd, J=3.2, 7.6 Hz, 1H), 6.13 (dt, J=3.2, 8.8 Hz, 1H), 5.31 (s, 1H), 2.44 (s, 3H); MS (ESI) m/z: 219.0 (M+H+).

reactant | NaH | 3.3 mmol, 100 mg | [H-].[Na+]
reactant | CS2 | 6.4 mmol, 0.49 g | C(=S)=S | CS2
reactant | Methyl iodide | 17 mmol, 2.4 g | CI | CH3I
reactant | O-(5-(3-amino-4-fluorophenoxy)pyridin-2-yl)methyl S-methyl carbonodithioate | 2.1 mmol, 0.69 g | C(OCC1=NC=C(C=C1)OC1=CC(=C(C=C1)F)N)(=S)SC | C14H13FN2O2S2
reactant | tributyltin hydride | 1 mL | C(CCC)[SnH](CCCC)CCCC
reactant | AIBN | 50 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-fluoro-5-(6-methylpyridin-3-yloxy)benzenamine | 0.26 g, 56% yield | FC1=C(C=C(C=C1)OC=1C=NC(=CC1)C)N | C12H11FN2O
